US04826869
1-Butyl-2-(3'-ureidobenzyl)-5-ethylpyrrole
A stirred solution of 3.1 g (12 mmol) of 1-butyl-2-(3'-aminobenzyl)-5-ethylpyrrole in 250 ml of dry methylene chloride and 50 ml of anhydrous methanol was treated, at room temperature and under nitrogen atmosphere, with 1.7 g (26 mmol) of sodium cyanate, followed by the dropwise addition, over a 2 hour period, of 2.3 ml (29 mmol) of trifluoroacetic acid in 100 ml of methylene chloride. The reaction mixture was stirred at room temperature for 18 additional hours, 2 g (18 mmol) of sodium carbonate were then added and the solvent evaporated under reduced pressure. The residue was purified by column chromatography on 300 g of silica gel, using methylene chloride-methanol (97:3) as eluant, thus obtaining 3.4 g (93%) of the title compound, 1-butyl-2-(3'-ureidobenzyl)-5-ethylpyrrole, which was recrystallized from ether-hexane.

reactant | 1-butyl-2-(3'-aminobenzyl)-5-ethylpyrrole | 12 mmol, 3.1 g | C(CCC)N1C(=CC=C1CC)CC1=CC(=CC=C1)N | C17H24N2
reactant | sodium cyanate | 26 mmol, 1.7 g | [O-]C#N.[Na+]
reactant | trifluoroacetic acid | 29 mmol, 2.3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium carbonate | 18 mmol, 2 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 50 ml | CO | CH4O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-Butyl-2-(3'-ureidobenzyl)-5-ethylpyrrole | 3.4 g, 93% | C(CCC)N1C(=CC=C1CC)CC1=CC(=CC=C1)NC(=O)N | C18H25N3O
